US08198279B2
1-(4-(2-amino-3-oxo-3,4-dihydropyrido[2,3-b]pyrazin-8-yloxy)naphthalen-1-yl)-3-(2-fluoro-5-(trifluoromethyl)phenyl)urea (AA-015)
Method F2 was used with 2-amino-8-(4-aminonaphthalen-1-yloxy)pyrido[2,3-b]pyrazin-3(4H)-one and 1-fluoro-2-isocyanato-4-(trifluoromethyl)benzene to afford the title compound as a slightly pink solid (73 mg, 89%).

reactant | 2-amino-8-(4-aminonaphthalen-1-yloxy)pyrido[2,3-b]pyrazin-3(4H)-one | NC1=NC2=C(NC1=O)N=CC=C2OC2=CC=C(C1=CC=CC=C21)N | C17H13N5O2
reactant | 1-fluoro-2-isocyanato-4-(trifluoromethyl)benzene | FC1=C(C=C(C=C1)C(F)(F)F)N=C=O | C8H3F4NO
product | 1-(4-(2-amino-3-oxo-3,4-dihydropyrido[2,3-b]pyrazin-8-yloxy)naphthalen-1-yl)-3-(2-fluoro-5-(trifluoromethyl)phenyl)urea | NC1=NC2=C(NC1=O)N=CC=C2OC2=CC=C(C1=CC=CC=C21)NC(=O)NC2=C(C=CC(=C2)C(F)(F)F)F | C25H16F4N6O3
